US05120843
2,6-Bis(1,1-dimethylethyl)-4-[[4-(2,6-bis-1-pyrrolidinyl-4-pyrimidinyl)-1-piperazinyl]methyl]phenol (I/A-22)
2,6-bis(1-pyrrolidinyl)-4-(1-piperazinyl)pyrimidine (PREPARATION A-22) is stirred in methanol (10 ml). To the above solution is added saturated ethereal hydrochloric acid until the solution clarifies. To this mixture is added 3,5-di-t-butyl-4-hydroxybenzaldehyde and the mixture stirred for 30 min at which time sodium cyanoborohydride is added in two batches. The mixture is stirred at 20°-25° for 18 hr and quenched with hydrochoric acid (10%, 25 ml) added dropwise at 0°. The methanol is removed under a stream of nitrogen and the acidic mixture is extracted with ethyl acetate (25 ml). The aqueous phase is then made basic with hydroxide (45%) at 0°. The aqueous basic phase is then extracted with methylene chloride (2×). The organic phases are combined and dried over sodium sulfate, following which the mixture is concentrated under at reduced pressure. The concentrate is flashed chromatographed on silica gel eluting with hexane/ethyl acetate (1/1) or ethyl acetate. The appropriate fractions are pooled and concentrated to give the title compound.

reactant | 2,6-bis(1-pyrrolidinyl)-4-(1-piperazinyl)pyrimidine | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H26N6
reactant | hydrochloric acid | Cl | ClH
reactant | 3,5-di-t-butyl-4-hydroxybenzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2,6-Bis(1,1-dimethylethyl)-4-[[4-(2,6-bis-1-pyrrolidinyl-4-pyrimidinyl)-1-piperazinyl]methyl]phenol | CC(C)(C)C1=C(C(=CC(=C1)CN1CCN(CC1)C1=NC(=NC(=C1)N1CCCC1)N1CCCC1)C(C)(C)C)O | C31H48N6O
